US07208495B2
1-(4-methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine
Using 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol and pyrrolidine obtained in Reference Example 18, the title compound was obtained in the same manner as in Example 57. Yield 48% mp. 124–126° C. (methanol).

reactant | 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-(4-methoxyphenyl)-4-(2,2,4,6,7-pentamethyl-3-(pyrrolidinyl)-2,3-dihydro-1-benzofuran-5-yl)piperazine | Yield 48% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)N2CCCC2)C1C)C)C | C28H39N3O2
